US07812028B2
Preparation of 5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2-methoxy-ethoxy)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 6, using 5-bromo-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester, 2-methoxy-ethanol (commercially available), 4-chlorophenyl-boronic acid (commercially available) and rac-1-amino-2-cyclopropyl-propan-2-ol (commercially available) as starting materials. MS (ISP): 405.4 (MH+).

reactant | 5-bromo-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester | COC(=O)C1=CNC(C(=C1)Br)=O | C7H6BrNO3
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | rac-1-amino-2-cyclopropyl-propan-2-ol | NCC(C)(O)C1CC1 | C6H13NO
reactant | 2-methoxy-ethanol | COCCO | C3H8O2
product | 5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2-methoxy-ethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC(C)(O)C2CC2)C1)OCCOC | C21H25ClN2O4
